US08957064B2
Step 2: 6-(2,6-difluorophenyl)-5-(4-formylphenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester
2.3 g (7.1 mmol) 5-Chloro-6-(2,6-difluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester are given in 24 mL dimethoxyethane. 13.9 mL Na2CO3 solution (10%) and 1.18 g (7.8 mmol) 4-formylboronic acid are added. After addition of 0.26 g (0.32 mmol) 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) the reaction mixture is purged 3× with argon and heated at 90° C. for 2 hours. The reaction mixture is cooled down, treated with water and extracted 3 times with dichloromethane. The organic phase is washed with brine and dried (Na2SO4). The solvent is removed and the crude product purified via chromatography (silicagel, dichloromethane/methanol). 2.57 g (64.4%) of the slightly contaminated compound are obtained.

reactant | 5-Chloro-6-(2,6-difluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | 7.1 mmol, 2.3 g | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)Cl | C14H8ClF2N3O2
reactant | Na2CO3 | 13.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 24 mL | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 0.32 mmol, 0.26 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(2,6-difluorophenyl)-5-(4-formylphenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)C2=CC=C(C=C2)C=O | C21H13F2N3O3
